US07544690B2
To a solution of cis-(4-carbamoyl-cyclohexyl)-carbamic acid tert-butyl ester (62 g, 256 mmol) in CH2Cl2 (250 mL) was added TFA (250 mL) and the mixture was stirred at ambient temperature for 1 hr. The mixture was concentrated and 2 M HCl in Et2O (150 mL) was added to give a white precipitate. The mixture was concentrated to give cis-4-amino-cyclohexanecarboxylic acid amide hydrochloride (45 g, 98%) as a white solid.

reactant | cis-(4-carbamoyl-cyclohexyl)-carbamic acid tert-butyl ester | 256 mmol, 62 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)C(N)=O)=O | C12H22N2O3
reactant | TFA | 250 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | cis-4-amino-cyclohexanecarboxylic acid amide hydrochloride | 45 g, 98% | Cl.N[C@H]1CC[C@H](CC1)C(=O)N | InChI=1S/C7H14N2O.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h5-6H,1-4,8H2,(H2,9,10);1H/t5-,6+;
